US04089956
A mixture of 4,5-diphenyl-2-oxo-4-oxazolin-3-ylacetic acid (2.1 g, 7.1 mmol) [J. Org. Chem., 38, 3034 (1973)], thionyl chloride (5 ml) and methylene chloride (20 ml) is refluxed for 2.5 hours. After cooling to room temperature the solvent is removed in vacuo and resulting oil crystallizes on standing. The product is triturated with ether-hexane to give 4,5-diphenyl-2-oxo-4-oxazolin-3-ylacetic acid chloride; 2.0 g mp 104°-112°.

reactant | 4,5-diphenyl-2-oxo-4-oxazolin-3-ylacetic acid | 7.1 mmol, 2.1 g | C1(=CC=CC=C1)C=1N(C(OC1C1=CC=CC=C1)=O)CC(=O)O | C17H13NO4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4,5-diphenyl-2-oxo-4-oxazolin-3-ylacetic acid chloride | C1(=CC=CC=C1)C=1N(C(OC1C1=CC=CC=C1)=O)CC(=O)Cl | C17H12ClNO3
